US04898872
3,4-Dihydro-4,4,8-trimethyl-6-nitro-2-(1H)-quinolone
A mixture of concentrated nitric acid (10 cm3, S.G.=1.42) and 98% w/w sulphuric acid (25 cm3) was added dropwise to a stirred solution of 3,4-dihydro-4,4,8-trimethyl-2-(1H)-quinolone (6 g) in 98% w/w sulphuric acid (25 cm3) cooled to -10°. The temperature was maintained at -10° for a further 30 minutes, the mixture poured onto ice (200 g), basified to pH 9 with saturated sodium carbonate solution and extracted with methanol:chloroform, 1:20 by volume (2×300 cm3). The combined and dried (MgSO4) organic extracts were evaporated in vacuo to give the title compound (6.46 g) which was characterised spectroscopically and used directly in Preparation 24 without further purification.

reactant | sulphuric acid | 25 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | 3,4-dihydro-4,4,8-trimethyl-2-(1H)-quinolone | 6 g | CC1(CC(NC2=C(C=CC=C12)C)=O)C | C12H15NO
reactant | sulphuric acid | 25 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | nitric acid | 10 cm3 | [N+](=O)(O)[O-] | HNO3
product | 3,4-Dihydro-4,4,8-trimethyl-6-nitro-2-(1H)-quinolone | 6.46 g | CC1(CC(NC2=C(C=C(C=C12)[N+](=O)[O-])C)=O)C | C12H14N2O3
